US07799096B2
Preparation of 2,3,4-trihydroxy-5-(morpholin-4-ylmethyl)benzaldehyde (A1)
20.9 g (0.24 mol) of morpholine were added to 19.2 g (0.24 mol) of a 37% aqueous formaldehyde solution in 140 ml of ethanol. Then 25.0 g (0.16 mol) of 2,3,4-trihydroxybenzaldehyde were added thereto. The reaction mixture was refluxed for one hour, developing a dark brown color. After cooling, a beige-brown solid precipitated out, which was filtered out and dried.

reactant | morpholine | 0.24 mol, 20.9 g | N1CCOCC1 | C4H9NO
reactant | formaldehyde | C=O | CH2O
reactant | 2,3,4-trihydroxybenzaldehyde | 0.16 mol, 25.0 g | OC1=C(C=O)C=CC(=C1O)O | C7H6O4
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 2,3,4-trihydroxy-5-(morpholin-4-ylmethyl)benzaldehyde | OC1=C(C=O)C=C(C(=C1O)O)CN1CCOCC1 | C12H15NO5
